US07655666B2
2-Acetylamino-5-(1-hydroxy-butyl)-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 2-acetylamino-5-formyl-4-trifluoromethyl-benzoic acid methyl ester (1.52 g, 5.26 mmol) in absolute Et2O (52 mL), under argon, was added a solution of propylmagnesium chloride (2.0 M in Et2O, 5.3 mL, 11 mmol) over 5 min at 20° C. An immediate crystallisation occurred along with an exotherm. The reaction mixture was cooled to 20° C. using an ice/water bath. The reaction mixture was stirred at r.t. for 1 h then poured onto sat. aq NH4Cl and EtOAc. The pH was adjusted to 7 with sat. aq NH4Cl and the layers were separated. The organic phase was washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash column chromatography (25 g silica gel, hexanes/EtOAc (1:0→7:3)) to give product as colorless crystals (409 mg, 23%). m.p.: 97-101° C., ESI-MS: m/z 334 [M+H]+, m/z 332 [M−H]−.

reactant | 2-acetylamino-5-formyl-4-trifluoromethyl-benzoic acid methyl ester | 5.26 mmol, 1.52 g | COC(C1=C(C=C(C(=C1)C=O)C(F)(F)F)NC(C)=O)=O | C12H10F3NO4
reactant | propylmagnesium chloride | 11 mmol, 2.0 M, 5.3 mL | C(CC)[Mg]Cl
solvent | Et2O | 52 mL | CCOCC | C4H10O
product | 2-Acetylamino-5-(1-hydroxy-butyl)-4-trifluoromethyl-benzoic acid methyl ester | 409 mg, 23% | COC(C1=C(C=C(C(=C1)C(CCC)O)C(F)(F)F)NC(C)=O)=O | C15H18F3NO4
